US07026321B2
To 50 ml of tetrahydrofuran was added 4-fluorobenzoic acid (3.64 g, 26 mmol), L-serine methyl ester hydrochloride (2 g, 13 mmol), 1-hydroxybenzotriazole hydrate (4 g, 26 mmol), O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (9.9 g, 26 mmol), triethylamine (3.5 ml, 26 mmol) and dimethylaminopyridine (20 mg, 0.16 mmol). The reaction was stirred for 24 hours at room temperature. Solvent was removed under reduced pressure, and the residue dissolved in 150 ml of ethyl acetate. The organic solution was washed in a separatory funnel in the following manner: 3×100 ml 10% aqueous citric acid, 3×100 ml saturated sodium bicarbonate, 3×100 ml water, 1×75 ml saturate sodium chloride solution. The organic layer was concentrated and purified using a Flash40 column (1:2 EtOAc:Hexane, 20 psi) to yield 3 grams of methyl 2-[(4-fluorophenyl)carbonylamino]-3-hydroxypropanoate.

reactant | 4-fluorobenzoic acid | 26 mmol, 3.64 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | L-serine methyl ester hydrochloride | 13 mmol, 2 g | Cl.COC([C@@H](N)CO)=O
reactant | 1-hydroxybenzotriazole hydrate | 26 mmol, 4 g | O.ON1N=NC2=C1C=CC=C2
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 26 mmol, 9.9 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 26 mmol, 3.5 ml | C(C)N(CC)CC | C6H15N
catalyst | dimethylaminopyridine | 0.16 mmol, 20 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | methyl 2-[(4-fluorophenyl)carbonylamino]-3-hydroxypropanoate | 3 grams | FC1=CC=C(C=C1)C(=O)NC(C(=O)OC)CO | C11H12FNO4
